US09035059B2
4-(2-Cyclopentylethyl)-2-fluoroaniline
9-Borabicyclo[3,3,1]nonane (9-BBN) (tetrahydrofuran solution, 0.5 mol/L, 33 mL, 16.5 mmol) was added dropwise to a solution of vinylcyclopentane (1.59 g, 16.5 mmol) in tetrahydrofuran (7.5 mL) at 0° C. under a nitrogen atomosphere. The mixture was warmed gradually to room temperature and stirred for 15 hr. To the reaction mixture were added dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (367 mg, 0.45 mmol), 4-bromo-2-fluoroaniline (2.85 g, 15.0 mmol) and 3 mol/L aqueous sodium hydroxide solution (15 mL, 45.0 mmol), and the mixture was heated to reflux for 10 hr. After cooling, ethyl acetate was added thereto, the mixture was filtered through Celite (registered trademark), and the filtrate was concentrated under reduced pressure. Water was added thereto, the mixture was extracted with ethyl acetate, and the organic layer was washed with brine. After drying over anhydrous magnesium sulfate, the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to afford the title compound as a pale yellow oil (3.01 g).

reactant | 9-Borabicyclo[3,3,1]nonane | 16.5 mmol, 0.5 mol/L, 33 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | vinylcyclopentane | 16.5 mmol, 1.59 g | C(=C)C1CCCC1 | C7H12
reactant | 4-bromo-2-fluoroaniline | 15.0 mmol, 2.85 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | sodium hydroxide | 45.0 mmol, 3 mol/L, 15 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.45 mmol, 367 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Cyclopentylethyl)-2-fluoroaniline | 3.01 g | C1(CCCC1)CCC1=CC(=C(N)C=C1)F | C13H18FN
